US08058263B2
15.3. 4-phenyl-pyridine-2-carbonitrile
To a solution of 4-phenylpyridine N-oxide (5 g) in DCM (50 mL) was added at RT trimethylsilylcyanide (11 mL), followed by acetyl chloride (3.1 mL) over 10 min. The reaction mixture was stirred overnight at RT. A solution of aq. 10% Na2CO3 was added and the mixture was extracted with EA. The combined org. phases were washed with brine, dried (Na2SO4) and evaporated off. Filtration over a plug of silica gel (Hept/EA 1/1) gave the desired compound (450 mg).

reactant | 4-phenylpyridine N-oxide | 5 g | C1(=CC=CC=C1)C1=CC=[N+](C=C1)[O-] | C11H9NO
reactant | trimethylsilylcyanide | 11 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | acetyl chloride | 3.1 mL | C(C)(=O)Cl | C2H3ClO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-phenyl-pyridine-2-carbonitrile | 450 mg | C1(=CC=CC=C1)C1=CC(=NC=C1)C#N | C12H8N2
